US04748276
Gutkowska, Acta Pol. Pharm. 30, 109-113 (1973), shows the reaction of N,N-bis(2-chloroethyl)-n-butylamine with phenylacetonitrile in the presence of 50% aqueous sodium hydroxide solution and benzyltriethylammonium chloride as catalyst to produce 1-n-butyl-4-cyano-4-phenylpiperidine hydrochloride (30% yield).

reactant | N,N-bis(2-chloroethyl)-n-butylamine | ClCCN(CCCl)CCCC | C8H17Cl2N
reactant | phenylacetonitrile | C1(=CC=CC=C1)CC#N | C8H7N
catalyst | sodium hydroxide | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-n-butyl-4-cyano-4-phenylpiperidine hydrochloride | 30% yield | Cl.C(CCC)N1CCC(CC1)(C1=CC=CC=C1)C#N | InChI=1S/C16H22N2.ClH/c1-2-3-11-18-12-9-16(14-17,10-13-18)15-7-5-4-6-8-15;/h4-8H,2-3,9-13H2,1H3;1H
